US09278910B2
Prepared using General Procedure 6: To a stirred solution of 2-(4-methoxy-2-(trifluoromethyl)phenyl)acetic acid (200 mg, 0.85 mmol), HATU (210 mg, 0.89 mmol) in DMF (5 mL) was added methyl 5-aminopicolinate hydrochloride (156 mg, 1.02 mmol) followed by triethylamine (226 mg, 2.24 mmol). The reaction mixture was stirred at room temperature for 12 h. The reaction mixture was diluted with EA (10 mL) and washed with NaHCO3 (10 mL), NH4Cl (10 mL) and brine (10 mL) then dried over MgSO4 and concentrated to give 78 mg (25%) of methyl 5-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)picolinate INT-14 which was used in the next step without purification. LCMS-ESI (m/z) calculated C17H15F3N2O4: 368; found 369 [M+H]+, tR=3.06 min (Method 1).

reactant | 2-(4-methoxy-2-(trifluoromethyl)phenyl)acetic acid | 0.85 mmol, 200 mg | COC1=CC(=C(C=C1)CC(=O)O)C(F)(F)F | C10H9F3O3
reactant | HATU | 0.89 mmol, 210 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methyl 5-aminopicolinate hydrochloride | 1.02 mmol, 156 mg | Cl.NC=1C=CC(=NC1)C(=O)OC
reactant | triethylamine | 2.24 mmol, 226 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EA | 10 mL | CC(OCC)=O | C4H8O2
product | methyl 5-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)picolinate | 78 mg, 25% | COC1=CC(=C(C=C1)CC(=O)NC=1C=CC(=NC1)C(=O)OC)C(F)(F)F | C17H15F3N2O4
